US07102008B2
t-Butyl lithium 1.7 M (99.7 mL, 169.5 mmol) was added slowly to a solution of (6-bromo-naphthalen-2-yloxy)-tert-butyl-dimethyl-silane (26.0 g, 77.1 mmol) in THF (400 mL) cooled to −78° C. under a nitrogen atmosphere. The reaction was stirred at −78° C. for 1 h, and then diethyl dimethyl malonate (43.5 g, 231.2 mmol) was added rapidly. The reaction was stirred an additional 0.5 h, warmed to room temperature, and partitioned between water saturated with KH2PO4 and ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated to give 3-[6-(tert-butyl-dimethyl-silanyloxy)-naphthalen-2-yl]-2,2-dimethyl-3-oxo-propionic acid ethyl ester as an oil.

reactant | t-Butyl lithium | 169.5 mmol, 1.7 M, 99.7 mL | C(C)(C)(C)[Li]
reactant | (6-bromo-naphthalen-2-yloxy)-tert-butyl-dimethyl-silane | 77.1 mmol, 26.0 g | BrC=1C=C2C=CC(=CC2=CC1)O[Si](C)(C)C(C)(C)C | C16H21BrOSi
reactant | diethyl dimethyl malonate | 231.2 mmol, 43.5 g | CCOC(=O)C(C)(C)C(=O)OCC | C9H16O4
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-[6-(tert-butyl-dimethyl-silanyloxy)-naphthalen-2-yl]-2,2-dimethyl-3-oxo-propionic acid ethyl ester | C(C)OC(C(C(=O)C1=CC2=CC=C(C=C2C=C1)O[Si](C)(C)C(C)(C)C)(C)C)=O | C23H32O4Si
